Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ old left-handed woman with a history of 
hepatitis C, heroin abuse, last 1 month ago, currently in a 
sober house, who presents with multiple seizures. 

Patient was at her halfway home when she was witnessed to fall 
forward onto a carpeted floor, hitting the left side of her face 
and exhibiting "tonic clonic activity" for less than 1 minute. 
EMS was called and she was given 1 mg of Ativan in the field. 
She had returned to baseline mental status and was taken to 
___ for further management.

On arrival to ___, she had a second event concerning for 
seizure where she had generalized rhythmic shaking with 
unresponsiveness for approximately 2 minutes. She was given 
additional 2 mg of Ativan. About 5 minutes later, she had a 
third event lasting less than a minute. She was given 1 g of 
Keppra. Onset of the seizure was described with varying details, 
at one point saying that she had right eye deviation and had 
another time saying she had left head deviation. Neurology was 
consulted at that point.

Patient has no history of seizure. She has been living in a 
halfway home following being clean from IV heroin use for the 
past month. She does endorse that she did relapse and used 
cocaine yesterday. She has no family history of seizure. She has 
no history of febrile seizure. She has no history of head 
trauma, meningitis or encephalitis.

On my initial evaluation, she was confused, agitated and 
inattentive and rapidly improved over approximately 10 minutes 
concerning for postictal period.

Of note, she had been taking probably on for many years but 
recently stopped in the past week due to "abusing it." There are 
no other new medications. She has otherwise been feeling well 
recently without fever, chills, nausea, vomiting or GI illness. 
 
Past Medical History:
Hepatitis C
History of heroin abuse, 1 month ago, currently on methadone
ADHD
Depression

 
Social History:
___
Family History:
No family history of seizures. 
 
Physical Exam:
ON ADMISSION
============
Vitals: T: 96.0  P: 124 R: 16  BP: 128/76 SaO2: 97%ra
General: Awake, interactive. 
HEENT: NC, hematoma over the left maxilla, no scleral icterus
noted, MMM, right lateral tongue bite with dried blood around
oral mucosa
Neck: Supple. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty except regarding event itself. Inattentive to
___ backwards. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. 
+ asterixis noted. 
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   ___    5   5     5      5   
R  5    ___   ___    5   5     5      5   

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
___ absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Unable to walk in tandem. 

ON DISCHARGE
============
Vitals: 98.7PO 98/63 62 18 96Ra 
General: Awake, interactive. 
HEENT: NC, hematoma over the left maxilla, no scleral icterus
noted, MMM, right lateral tongue bite
Neck: Supple. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty except regarding event itself. Language is 
fluent with intact repetition and comprehension. Normal prosody. 
There were no paraphasic errors. Speech was not dysarthric. 
Patient had ___ delayed recall for random words. Able to follow 
both midline and appendicular commands. There was no evidence of 
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI with 
extinguishable end-point nystagmus. Normal saccades. VFF to 
confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Right-sided hypothenar atrophy (APB). Otherwise normal 
bulk, tone throughout. No pronator drift bilaterally.
No adventitious movements, such as tremor, noted. 
  Delt Bic Tri WrE  FE  APB IP Quad Ham  TA ___  ___ 
L  5    ___   5    ___    5   5     5      5   
R  5    ___   5    ___    5   5     5      5   

-Sensory: Loss of pinprick and light touch sensation over the 
right hand. Proprioception intact. No other sensory deficits 
noted. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  1  1    1    2   2
R  1  1    1    2   2
Plantar response was flexor bilaterally.
 
Pertinent Results:
ADMISSION LABS
=============
___ 12:41PM BLOOD WBC-13.4* RBC-4.63 Hgb-14.1 Hct-41.6 
MCV-90 MCH-30.5 MCHC-33.9 RDW-12.1 RDWSD-39.4 Plt ___
___ 12:41PM BLOOD Neuts-43.8 ___ Monos-8.0 Eos-1.6 
Baso-0.6 Im ___ AbsNeut-5.85 AbsLymp-6.10* AbsMono-1.07* 
AbsEos-0.22 AbsBaso-0.08
___ 12:41PM BLOOD Glucose-112* UreaN-11 Creat-1.0 Na-137 
K-4.0 Cl-96 HCO3-14* AnGap-27*
___ 12:41PM BLOOD ALT-31 AST-39 AlkPhos-81 TotBili-0.4
___ 12:41PM BLOOD Albumin-4.6 Calcium-9.2
___ 05:05AM BLOOD Calcium-8.5 Phos-3.1 Mg-2.0
___ 12:41PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:51PM BLOOD Lactate-13.0*
___ 03:42PM BLOOD Lactate-1.4
___ 03:35PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 03:35PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-TR* Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 03:35PM URINE RBC-3* WBC-4 Bacteri-FEW* Yeast-NONE 
Epi-41
___ 03:35PM URINE UCG-NEGATIVE
___ 03:35PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-POS* amphetm-NEG oxycodn-NEG mthdone-POS*

PERTINENT/DISCHARGE LABS
======================
___ 04:45AM BLOOD WBC-5.6 RBC-4.26 Hgb-13.0 Hct-38.7 MCV-91 
MCH-30.5 MCHC-33.6 RDW-12.3 RDWSD-40.9 Plt ___
___ 04:45AM BLOOD Glucose-97 UreaN-17 Creat-0.7 Na-142 
K-4.3 Cl-105 HCO3-21* AnGap-16
___ 04:45AM BLOOD Calcium-8.4 Phos-2.7 Mg-1.8

MICROBIOLOGY
============
 URINE CULTURE (Final ___:    < 10,000 CFU/mL.
 
___ 12:41 pm BLOOD CULTURE
   Blood Culture, Routine (Pending)

IMAGING
=======
___ NCHCT
IMPRESSION:  
No acute intracranial process. 

___ CXR
IMPRESSION:  
Subtle nodule projecting over the right mid lung.  A nonemergent 
CT of the chest may be performed to further assess.  No signs of 
pneumonia. 

CT Chest ___:
Solitary 4 mm solid lung nodule in the left lower lobe.
The lung nodule demonstrated on the x-ray dated ___ is 
not identified
in this CT scan and could be artifactual.

MRI HEAD W/ AND W/O CONTRAST ___:
1. Study is moderately degraded by motion.  If continued concern 
for
intracranial lesion or subtle mass, consider repeat study when 
patient can
tolerate exam.
2. No acute intracranial abnormality.
3. Single nonenhancing left parietal white matter lesion as 
described. 
Differential considerations include prominent perivascular 
space, sequela of
prior trauma or infection, history of migraine headaches, 
inflammatory or
demyelinating process, and microangiopathic changes.
4. Within limits of study, no definite evidence of intracranial 
mass.
5. Minimal mucosal thickening in the maxillary sinuses.

 
Brief Hospital Course:
Ms. ___ is a ___ old left-handed woman with a history of 
hepatitis C, heroin abuse, last 1 month ago, recent cocaine use, 
currently in a sober house, who presented with multiple 
first-time seizures. Her initial exam was notable for mild 
inattention, asterixis, and inability to tandem walk. Etiology 
of multiple generalized seizures is likely related to recent 
cocaine ingestion as well as over use of Buproprion. She admits 
to using Buproprion to suppress her appetite. She admitted to 
also taking more Gabapentin than prescribed. Urine tox was 
positive for methadone and cocaine only. She denies any alcohol. 
She does not have any history of seizures or seizure risk 
factors, though she may have a predisposition with a lowered 
seizure threshold in the setting of recent Wellbutrin. She 
underwent an head CT and MRI, neither of which revealed any 
structural cause for her seizure. EEG did not show any 
interictal epileptiform discharges. Ultimately, it was felt that 
a combination of cocaine use and over-use of Wellbutrin likely 
caused her seizure. As this is a first time seizure event, 
maintenance antiepileptic medication is not indicated. 

TRANSITIONAL ISSUES:
-Patient informed she is not allowed to drive for six months 
after seizure (ie, after ___. Other seizure precautions also 
reviewed with patient, including no climbing ladders, no 
swimming or bathing unsupervised.
-Medication reconciliation difficult to perform as records from 
her PCP, ___, and self-report are inconsistent. 
Additionally, she admitted to over-using both Gabapentin and 
Wellbutrin. Ultimately, we decided to discharge her on what we 
felt to be the safest medication regimen that would minimize the 
potential for abuse. Wellbutrin was stopped as this was thought 
to possibly have contributed to seizure.
-Incidental pulmonary nodule: For incidentally detected single 
solid pulmonary nodule smaller than 6 mm, no CT follow-up is 
recommended in a low-risk patient, and an optional CT in 12 
months is recommend in a high-risk patient.
-Consider treatment of Hepatitis C
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Methadone 95 mg PO DAILY 
2. Gabapentin 600 mg PO QID 
3. BusPIRone 30 mg PO BID 
4. HydrOXYzine 50 mg PO Q6H:PRN anxiety 
5. BuPROPion (Sustained Release) 150 mg PO BID 

 
Discharge Medications:
1.  BusPIRone 30 mg PO BID  
2.  Gabapentin 600 mg PO QID  
3.  HydrOXYzine 50 mg PO Q6H:PRN anxiety  
4.  Methadone 95 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure
Polysubstance use disorder
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms ___,

It was a pleasure taking care of you at ___ 
___.

You were in the hospital because you had multiple seizures at 
home. We believe these seizures may have been caused by stopping 
your Wellbutrin, or possible due to cocaine use.

In the hospital, we did an MRI and EEG (brain wave test), both 
of which were normal. You do not need a medication to prevent 
seizures.

When you leave the hospital, you should follow up with your 
primary care doctor to figure out a good medication regimen for 
your depression. We will STOP your Wellbutrin since this may 
have contributed to your seizures.

According to ___ state law, you cannot drive for 6 months after 
having a seizure.

Best wishes,
Your ___ team
 
Followup Instructions:
___